US09255110B2
Diisopropylethylamine (0.65 mL, 3.7 mmol) was added to a mixture of 3-chloro-4-nitro-benzoic acid (0.2 g, 0.992 mmol), aniline (0.1 mL, 1.1 mmol) and HBTU (0.42 g, 1.1 mmol) in acetonitrile (20 mL) and the reaction mixture was stirred at 80° C. for 8 hours and then at room temperature for 62 hours. The resulting mixture was then partitioned between water and ethyl acetate, the organic layer was separated and the aqueous layer was extracted twice with ethyl acetate. The combined organic extracts were washed with brine, dried over anhydrous sodium sulfate, filtered and evaporated under reduced pressure. The crude residue was purified on a silica gel plug (hexane/EtOAc, 80/20) to afford 135 mg (49% yield) of 3-chloro-4-nitro-N-phenyl-benzamide as a yellow solid.

reactant | Diisopropylethylamine | 3.7 mmol, 0.65 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 3-chloro-4-nitro-benzoic acid | 0.992 mmol, 0.2 g | ClC=1C=C(C(=O)O)C=CC1[N+](=O)[O-] | C7H4ClNO4
reactant | aniline | 1.1 mmol, 0.1 mL | NC1=CC=CC=C1 | C6H7N
reactant | HBTU | 1.1 mmol, 0.42 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | 3-chloro-4-nitro-N-phenyl-benzamide | 135 mg, 49% yield | ClC=1C=C(C(=O)NC2=CC=CC=C2)C=CC1[N+](=O)[O-] | C13H9ClN2O3
